US08975400B2
2-(3,5-difluorophenoxy)-5-(((1-methyl-5-oxo-1,2,3,5-tetrahydroimidazo[1,2-c]pyri-midin-7-yl)oxy)methyl)benzonitrile
Prepared in a manner similar to that described for E1 using 7-chloro-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one (50 mg, 0.269 mmol), sodium hydride (21.55 mg, 0.539 mmol) and 2-(3,5-difluorophenoxy)-5-(hydroxymethyl)benzonitrile (70.4 mg, 0.269 mmol) in DMF (2 mL).

reactant | 7-chloro-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one | 0.269 mmol, 50 mg | ClC=1C=C2N(C(N1)=O)CCN2C | C7H8ClN3O
reactant | sodium hydride | 0.539 mmol, 21.55 mg | [H-].[Na+]
reactant | 2-(3,5-difluorophenoxy)-5-(hydroxymethyl)benzonitrile | 0.269 mmol, 70.4 mg | FC=1C=C(OC2=C(C#N)C=C(C=C2)CO)C=C(C1)F | C14H9F2NO2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-(3,5-difluorophenoxy)-5-(((1-methyl-5-oxo-1,2,3,5-tetrahydroimidazo[1,2-c]pyri-midin-7-yl)oxy)methyl)benzonitrile | FC=1C=C(OC2=C(C#N)C=C(C=C2)COC=2C=C3N(C(N2)=O)CCN3C)C=C(C1)F | C21H16F2N4O3
